US04248618
A solution of 4-(5-chloro-2-pyrimidyloxy)phenol (1.4 g) in acetic acid (20 ml) was treated with fuming nitric acid (0.5 g) at 25° C. After 4 hours the mixture was poured into water and extracted with chloroform (2×100 ml). The chloroform extracts were dried (Mg2O4) and evaporated to a yellow solid which was chromatographed on silica gel (40 g). Elution with chloroform gave 4-(5-chloro-2-pyrimidyloxy)-2-nitrophenol (0.9 g) as pale yellow crystals.

reactant | 4-(5-chloro-2-pyrimidyloxy)phenol | 1.4 g | ClC=1C=NC(=NC1)OC1=CC=C(C=C1)O | C10H7ClN2O2
reactant | nitric acid | 0.5 g | [N+](=O)(O)[O-] | HNO3
reactant | water | O | H2O
solvent | acetic acid | 20 ml | C(C)(=O)O | C2H4O2
product | 4-(5-chloro-2-pyrimidyloxy)-2-nitrophenol | 0.9 g | ClC=1C=NC(=NC1)OC1=CC(=C(C=C1)O)[N+](=O)[O-] | C10H6ClN3O4
